US06337344B1
1-(tert-Butyloxycarbonyl-methyl)-1H-indole-2-carboxylic acid ethyl ester was treated with trifluoroacetic acid in dichloromethane to give 1-(carboxy-methyl)-1H-indole-2-carboxylic ethyl ester. Reaction of the latter intermediate with oxalyl chloride in dichloromethane gave the title compound.

reactant | 1-(tert-Butyloxycarbonyl-methyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)CC(=O)OC(C)(C)C | C17H21NO4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(carboxy-methyl)-1H-indole-2-carboxylic ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1)CC(=O)O | C13H13NO4
